US07384963B2
N-(Cyclopropylmethyl)-N-(4-methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from N-(4methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and cyclopropylmethyl-bromide using method L. LCMS; retention time 3.70 min, MH+ 468.

reactant | N-(4methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | COC1=CC=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C25H23N3O3
reactant | cyclopropylmethyl-bromide | C1(CC1)CBr | C4H7Br
product | N-(Cyclopropylmethyl)-N-(4-methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C1(CC1)CN(C(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)CC1=CC=C(C=C1)OC | C29H29N3O3
